US07858781B2
(2) 1-Benzyl-3-(R,S)-methyl-1,2,3,6-tetrahydro-pyridine (37)
36 from above (100 mg, 0.3 mmol), palladium-(II)-acetate (1.34 mg, 6 umol), triphenylphosphin (3.1 mg, 12 umol) and triethylamine (125 ul, 0.9 mmol) are dissolved in 1 ml of DMF. After addition of formic acid (22.5 ul, 0.6 mmol) the mixture is stirred for 1 h at 60° C. The reaction mixture is diluted with ethyl acetate, washed subsequently with 1N NaOH and brine, dried over sodium sulphate and evaporated. The crude product, 78 mg of a yellow oil, is purified by Flash-chromatography (silica gel, cyclohexane/ethyl acetate 3:1).

reactant | triphenylphosphin | 12 umol, 3.1 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.9 mmol, 125 ul | C(C)N(CC)CC | C6H15N
reactant | formic acid | 0.6 mmol, 22.5 ul | C(=O)O | CH2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | palladium-(II)-acetate | 6 umol, 1.34 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-Benzyl-3-(R,S)-methyl-1,2,3,6-tetrahydro-pyridine | C(C1=CC=CC=C1)N1CC(C=CC1)C | C13H17N
